US04436892
1-(2-Chloro-6-nitrobenzoyl)-2-ethyl-4-methylimidazole
15.4 g of 2-ethyl-4-methyl-imidazole are dissolved in 100 ml of tetrahydrofuran; 14.6 g of triethylamine are added, and there can then added dropwise, within 30 minutes at reflux temperature, 30.8 g of 2-chloro-6-nitrobenzoyl chloride, dissolved in 50 ml of tetrahydrofuran, in the process of which triethylamine hydrochloride precipitates. After 3 hours of refluxing, the mixture is filtered with suction, and the solvent is removed in the rotary evaporator. Recrystallisation of the residue from 85 ml of toluene yields 27.7 g (67.3% of theory) of the desired product, m.p. 119°-120° C.

reactant | 2-ethyl-4-methyl-imidazole | 15.4 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | triethylamine | 14.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-nitrobenzoyl chloride | 30.8 g | ClC1=C(C(=O)Cl)C(=CC=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triethylamine hydrochloride | Cl.C(C)N(CC)CC
product | 1-(2-Chloro-6-nitrobenzoyl)-2-ethyl-4-methylimidazole | ClC1=C(C(=O)N2C(=NC(=C2)C)CC)C(=CC=C1)[N+](=O)[O-] | C13H12ClN3O3
